US07902252B2
2.88. Synthesis of 4-(3-methylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (70)
The title compound was synthesized from methyl 4-(3-methylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (85 mg, 0.31 mmol) and lithium hydroxide (129 mg, 3.10 mmol in 3 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (6 mL) was used. The resulting product was purified by chromatography, eluting with heptane-EtOAc, gradient 0 to 50% EtOAc to afford the title compound. 45 mg, 57% yield. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.07-2.20 (m, J=12.57, 8.44, 6.21, 6.21 Hz, 1H), 2.35 (s, 3H), 2.50-2.84 (m, 5H), 3.26-3.35 (m, 1H), 6.53 (d, J=1.42 Hz, 1H), 6.98-7.07 (m, 2H), 7.17-7.22 (m, 1H), 7.23-7.34 (m, 1H), 8.84 (br. s., 1H). LCMS m/e 256 (M+H). Purity ˜100% (HPLC).

reactant | methyl 4-(3-methylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.31 mmol, 85 mg | CC=1C=C(CC2CCC=3NC(=CC32)C(=O)OC)C=CC1 | C17H19NO2
reactant | lithium hydroxide | 3.10 mmol, 3 mL, 129 mg | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 4-(3-methylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | CC=1C=C(CC2CCC=3NC(=CC32)C(=O)O)C=CC1 | C16H17NO2
